US05321027
8 g of 1-[4-aminobenzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine are dissolved in 200 ml of dioxane. 8.7 g of chloroformic acid benzyl ester in the form of a 50% solution in toluene are added dropwise thereto at 15°. After 2 hours at room temperature, the reaction mixture is diluted with water, dioxane is distilled off and the aqueous phase is rendered alkaline with 2N sodium hydroxide solution and extracted by shaking with ethyl acetate. The oil obtained from the ethyl acetate is crystallised from alcohol and ether, yielding 1-[4-(N-benzyloxycarbonylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine having a melting point of 149°-150°.

reactant | 1-[4-aminobenzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | 8 g | NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C19H22ClN3O
reactant | chloroformic acid benzyl ester | 8.7 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-[4-(N-benzyloxycarbonylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C27H28ClN3O3
